US08580762B2
Step 9: 4-(1-Methoxy-2-methylpropan-2-yl)benzene-1,2-diamine
Azido-4-(1-methoxy-2-methylpropan-2-yl)-2-nitrobenzene (1.102 g, 3.52 mmol) was dissolved in EtOH (30 ml) and Pd/C (10% wt.) (0.110 g, 10% wt) was added. The reaction was purged 3 times with N2 then 3 times with H2 and the reaction stirred at r.t. overnight. The mixture was filtered through Celite and the filtrate was concentrated in vacuo to give the crude product. The product was purified by silica flash column chromatography using between 100% heptane to 100% EtOAc as eluent to give the product as a pale brown oil which solidified into a dark orange solid (0.481 g, 63%, 90% pure): MS (ESI+) for C11H18N2O m/z 195.1 [M+H]+; LC purity 87% (ret. time, 0.99 min); 1H NMR (500 MHz, CDCl3) δH 16.65 (dd, J=11.2, 1.9 Hz, 2H), 6.58 (d, J=7.9 Hz, 1H), 3.26 (s, 2H), 3.24 (s, 3H), 1.20 (s, 6H).

reactant | Azido-4-(1-methoxy-2-methylpropan-2-yl)-2-nitrobenzene | 3.52 mmol, 1.102 g | N(=[N+]=[N-])C1=C(C=C(C=C1)C(COC)(C)C)[N+](=O)[O-] | C11H14N4O3
solvent | EtOH | 30 ml | CCO | C2H6O
catalyst | Pd/C | 0.110 g | [Pd] | Pd
product | 4-(1-Methoxy-2-methylpropan-2-yl)benzene-1,2-diamine | COCC(C)(C)C=1C=C(C(=CC1)N)N | C11H18N2O
